US07495104B2
Compound 20: (4-Tert-butylphenyl)-[4-(6.7-dimethoxyquinolin-4-yloxy)phenyl]-methylamine
[4-(6,7-Dimethoxy-4-quinolyloxy)phenyl]methylamine (100 mg) was dissolved in chloroform (10 ml) to prepare a solution. Triethylamine (0.3 ml), 4-tert-butylphenylboranic acid (100 mg), and copper(II) acetate (50 mg) were then added to the solution, and the mixture was stirred at room temperature for 3 days. The insolubles were removed by filtration, and the solvent was then removed by evaporation under the reduced pressure. The residue was purified by thin-layer chromatography on silica gel using chloroform/acetone for development to give the title compound (21 mg, yield 15%).

reactant | [4-(6,7-Dimethoxy-4-quinolyloxy)phenyl]methylamine | 100 mg | COC=1C=C2C(=CC=NC2=CC1OC)OC1=CC=C(C=C1)CN | C18H18N2O3
reactant | Triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 4-tert-butylphenylboranic acid | 100 mg | C(C)(C)(C)C1=CC=C(C=C1)OB=O | C10H13BO2
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | copper(II) acetate | 50 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | (4-Tert-butylphenyl)-[4-(6.7-dimethoxyquinolin-4-yloxy)phenyl]-methylamine | 21 mg, yield 15% | C(C)(C)(C)C1=CC=C(C=C1)N(C)C1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C28H30N2O3
